US05136080
3. 2-Amino-5-(2,4-dichlorophenyl)-4,6-dihydroxypyrimidine
Sodium (4.52 g, 0.196M) was added in portions to ethanol (150 ml). After all the sodium had dissolved guanidine hydrochloride (12.44 g, 0.13M) was added followed by diethyl 2,4-dichlorophenyl malonate (20 g, 0.0655M). The mixture was refluxed for 6 hours, EtOH was removed under reduced pressure and the residue partitioned between 2N NaOH (400 ml) and EtOAc (400 ml). The aqueous layer was acidified with concentrated hydrochloric acid with cooling and the precipitated solid was filtered and dried (11 g, 62%).

reactant | Sodium | 0.196M, 4.52 g | [Na] | Na
reactant | guanidine hydrochloride | 0.13M, 12.44 g | Cl.NC(=N)N
reactant | diethyl 2,4-dichlorophenyl malonate | 0.0655M, 20 g | CCOC(=O)C(C1=C(C=C(C=C1)Cl)Cl)C(=O)OCC | C13H14Cl2O4
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 2-Amino-5-(2,4-dichlorophenyl)-4,6-dihydroxypyrimidine | NC1=NC(=C(C(=N1)O)C1=C(C=C(C=C1)Cl)Cl)O | C10H7Cl2N3O2
